US04652304
One gram of 1,2-benzenedisulfonylazide was added portionwise to 0.4 gm sodium borohydride in 15 ml of ethyl alcohol with stirring and cooling. After addition, the mixture was stirred with cooling (ice/acetone bath) for 2 hours and filtered. The solid was washed with cold ethyl alcohol and ether to yield 0.8 g of 1,2-benzenedisulfonamide, m.p. 250° C. Mass spec. (M/e) 236.

reactant | 1,2-benzenedisulfonylazide | One gram | C=1(C(=CC=CC1)S(=O)(=O)N=[N+]=[N-])S(=O)(=O)N=[N+]=[N-] | C6H4N6O4S2
reactant | sodium borohydride | 0.4 gm | [BH4-].[Na+]
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
product | 1,2-benzenedisulfonamide | 0.8 g | C=1(C(=CC=CC1)S(=O)(=O)N)S(=O)(=O)N | C6H8N2O4S2
